US08222416B2
A mixture of 1-benzenesulfonyl-2-[1-(4-methanesulfonyl-phenyl)-3-methyl-but-1-enyl]-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid methyl ester (800 mg, 1.48 mmol) in ethanol (4 mL) and an aqueous sodium hydroxide solution (10%, 1.5 mL) was heated at 100° C. for 1 h. The mixture was acidified to pH 4-5 with a 2N aqueous hydrochloric acid solution, diluted with dichloromethane (150 mL), washed with water, dried over anhydrous sodium sulfate and then concentrated in vacuo to afford 2-[1-(4-methanesulfonyl-phenyl)-3-methyl-but-1-enyl]-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid (540 mg, 95%) as a light yellow solid which was used without further purification: LC/MS m/e calcd for C20H20N2O4S [M+H]+ 385.46, observed 385.3.

reactant | 1-benzenesulfonyl-2-[1-(4-methanesulfonyl-phenyl)-3-methyl-but-1-enyl]-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid methyl ester | 1.48 mmol, 800 mg | COC(=O)C=1C=C2C(=NC1)N(C(=C2)C(=CC(C)C)C2=CC=C(C=C2)S(=O)(=O)C)S(=O)(=O)C2=CC=CC=C2 | C27H26N2O6S2
reactant | sodium hydroxide | 1.5 mL | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ethanol | 4 mL | C(C)O | C2H6O
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 2-[1-(4-methanesulfonyl-phenyl)-3-methyl-but-1-enyl]-1H-pyrrolo[2,3-b]pyridin-5-carboxylic acid | 540 mg, 95% | CS(=O)(=O)C1=CC=C(C=C1)C(=CC(C)C)C1=CC=2C(=NC=C(C2)C(=O)O)N1 | C20H20N2O4S
